US04246263
Sodium hydride (170 mg., 7.1 mmoles, from 340 mg. of 50% dispersion in oil washed, under nitrogen, with hexane) was slurried in 5 ml. of dry tetrahydrofuran. A solution of 4-(2-hydroxyethylthiomethyl)pyridine (1.0 g., 5.9 mmoles) in 10 ml. ws added dropwise over 5 minutes and the mixture stirred for 5 minutes. Finally, methyl iodide (260 mg., 0.1 ml., 5.9 mmoles) in 2 ml. of tetrahydrofuran was added and the mixture stirred overnight. The reaction mixture was clarified by filtration and evaporated to an oil (approximately 1.3 g.) which was chromatographed on silica gel with chloroform as eluent. Pure fractions of product were combined and concentrated to yield 4-(2-methoxyethylthiomethyl)pyridine [210 mg. of oil; m/e 183; pnmr/CDCl3 /TMS/τ: 7.4 (t, 2H), 6.7 (s, 3H), 6.5 (t, 2H), 6.3 (s, 2H), 2.7 (d, 2H), 1.4 (d, 2H)].

reactant | Sodium hydride | 7.1 mmoles, 170 mg | [H-].[Na+]
reactant | 4-(2-hydroxyethylthiomethyl)pyridine | 5.9 mmoles, 1.0 g | OCCSCC1=CC=NC=C1 | C8H11NOS
reactant | methyl iodide | 5.9 mmoles, 0.1 ml, 260 mg | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2-methoxyethylthiomethyl)pyridine | COCCSCC1=CC=NC=C1 | C9H13NOS
